US07618967B2
Triethylamine (4.5 mL; 32 mmol; 1.2 equiv.) was added to 3-bromo-indan-1-one (5.6 g; 27 mmol) in 100 mL THF at 0° C. and stirred 1 h at r.t. The reaction mixture was filtered to remove triethylammonium bromide and concentrated in vacuo to give inden-1-one. 7-Fluoroindole (3.3 g, 22 mmol ) and Sc(OTf)3 (550mg, 5 mol %) were added to inden-1-one in 100 mL CH2Cl2 at 0° C. The reaction mixture was allowed to warm to room temperature over night. 100 mL ethyl acetate was added and the mixture was filtered through a silica gel plug and concentrated in vacuo. After flash chromatography (heptane/ethyl acetate, silica gel) 5.9 g 3-(7-fluoro-1H-indol-3-yl)-indan-1-one (82%) was isolated.

reactant | 7-Fluoroindole | 22 mmol, 3.3 g | FC=1C=CC=C2C=CNC12 | C8H6FN
reactant | inden-1-one | C1(C=CC2=CC=CC=C12)=O | C9H6O
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | Sc(OTf)3 | 550mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Sc+3]
product | 3-(7-fluoro-1H-indol-3-yl)-indan-1-one | 5.9 g, 82% | FC=1C=CC=C2C(=CNC12)C1CC(C2=CC=CC=C12)=O | C17H12FNO
